US08710245B2
(b) Synthesis of (3-bromo-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methanamine
The title compound was synthesized from 2-(4-bromothiophen-2-yl)ethanol and amino-acetaldehyde dimethylacetal according to General Procedure A.

reactant | 2-(4-bromothiophen-2-yl)ethanol | BrC=1C=C(SC1)CCO | C6H7BrOS
reactant | amino-acetaldehyde dimethylacetal | COC(CN)OC | C4H11NO2
product | (3-bromo-6,7-dihydro-4H-thieno[3,2-c]pyran-4-yl)methanamine | BrC1=CSC2=C1C(OCC2)CN | C8H10BrNOS
